US06787536B2
2-(R)-{4-[5-(4-Cyanophenyl)-pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyric acid
Prepared according to the method for the preparation of 2-(R)-{4-[5-(4 fluorophenyl)pyrimidin-2-yl] piperazine-1-sulfonylmethyl}-3-methylbutyric acid, from 4-(2-{4-[2-(R)-(4-(R)-benzyl-2-oxooxazolidine-3-carbonyl)-3-methylbutane-1-sulfonyl]piperazin-1-yl}pyrimidin-5-yl)benzonitrile (0.70 g), to give the title compound as a white solid (0.07 g, 14%).

reactant | 2-(R)-{4-[5-(4 fluorophenyl)pyrimidin-2-yl] piperazine-1-sulfonylmethyl}-3-methylbutyric acid | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)O)C(C)C | C20H25FN4O4S
reactant | 4-(2-{4-[2-(R)-(4-(R)-benzyl-2-oxooxazolidine-3-carbonyl)-3-methylbutane-1-sulfonyl]piperazin-1-yl}pyrimidin-5-yl)benzonitrile | 0.70 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(=O)[C@H](CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C#N)C=C1)C(C)C | C31H34N6O5S
product | 2-(R)-{4-[5-(4-Cyanophenyl)-pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyric acid | 0.07 g, 14% | C(#N)C1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)O)C(C)C | C21H25N5O4S
